* c:\fossee\esim\library\subcircuitlibrary\mc14572\mc14572.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m7 net-_m7-pad1_ net-_m7-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m8 net-_m10-pad1_ net-_m7-pad2_ net-_m7-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
* u1  net-_m1-pad1_ net-_m1-pad2_ net-_m3-pad1_ net-_m3-pad2_ net-_m11-pad3_ net-_m10-pad2_ net-_m11-pad2_ gnd net-_m5-pad1_ net-_m5-pad2_ net-_m7-pad1_ net-_m7-pad2_ net-_m13-pad3_ net-_m14-pad2_ net-_m13-pad2_ net-_m10-pad1_ port
m10 net-_m10-pad1_ net-_m10-pad2_ net-_m10-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m11 net-_m10-pad3_ net-_m11-pad2_ net-_m11-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m9 net-_m11-pad3_ net-_m10-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m12 net-_m11-pad3_ net-_m11-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m13 net-_m10-pad1_ net-_m13-pad2_ net-_m13-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m16 net-_m10-pad1_ net-_m14-pad2_ net-_m13-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m14 net-_m13-pad3_ net-_m14-pad2_ net-_m14-pad3_ gnd CMOSN W=100u L=100u M=1
m15 net-_m14-pad3_ net-_m13-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m5 net-_m5-pad1_ net-_m5-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m6 net-_m10-pad1_ net-_m5-pad2_ net-_m5-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m3 net-_m3-pad1_ net-_m3-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m4 net-_m10-pad1_ net-_m3-pad2_ net-_m3-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m2 net-_m10-pad1_ net-_m1-pad2_ net-_m1-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
